US04104049
9.35 g (0.06 mole) of methyl 1-methylcarbonyl-2-ethoxyvinyl ketone were added dropwise to a suspension of 10.3 g (0.05 mole) of 3-amino-2,5-dichlorobenzoic acid in 40 ml of ether. The mixture was stirred for a further 5 hours at room temperature and the precipitate was then filtered off and washed with acetonitrile. 12 g (76% of theory) of 3-[2,2-bis-(methylcarbonyl)-vinylamino]-2,5-dichlorobenzoic acid were obtained in the form of colourless crystals of melting point 244°-246° C.

reactant | methyl 1-methylcarbonyl-2-ethoxyvinyl ketone | 0.06 mole, 9.35 g | CC(=O)C(=COCC)C(=O)C | C8H12O3
reactant | 3-amino-2,5-dichlorobenzoic acid | 0.05 mole, 10.3 g | NC=1C(=C(C(=O)O)C=C(C1)Cl)Cl | C7H5Cl2NO2
solvent | ether | 40 ml | CCOCC | C4H10O
product | 3-[2,2-bis-(methylcarbonyl)-vinylamino]-2,5-dichlorobenzoic acid | 12 g, 76% | CC(=O)C(=CNC=1C(=C(C(=O)O)C=C(C1)Cl)Cl)C(=O)C | C13H11Cl2NO4
